US06506901B2
1-Bromo-4-[(2S)-oxiranylmethoxy]-9H-carbazole
A solution of 4-[(2S)-oxiranylmethoxy]-9H-carbazole (0.750 g, 3.13 mmol) and N-bromosuccinimide (0.57 g, 3.2 mmol) in 10 mL dry dimethylformamide (DMF) was stirred at ambient temperature for 48 hours. The reaction mixture was partitioned with EtOAc and H2O. The organic phase was washed with H2O and dried with Na2SO4. The solvent was removed (rotovap) and the residue purified by flash chromatography (hexane-EtOAc 5:1) afforded 0.10 g of the title compound.

reactant | 4-[(2S)-oxiranylmethoxy]-9H-carbazole | 3.13 mmol, 0.750 g | O1[C@@H](C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
reactant | N-bromosuccinimide | 3.2 mmol, 0.57 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-Bromo-4-[(2S)-oxiranylmethoxy]-9H-carbazole | 0.10 g | BrC1=CC=C(C=2C3=CC=CC=C3NC12)OC[C@H]1OC1 | C15H12BrNO2
